US09023864B2
Each of the chiral resolved ethyl {4-fluoro-7-[5-(4-fluorobenzyl)-4-methyl-1H-1,2,3-triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetate was hydrolyzed to the final acid product by dissolving in 1:1:1 THF/MeOH/water (0.06 M), treating with LiOH (3.6 eq.) and stirring overnight. The reaction mixture was diluted with EtOAc, extracted with 2 N HCl, water, dried (Na2SO4), and concentrated to provide {4-fluoro-7-[5-(4-fluorobenzyl)-4-methyl-1H-1,2,3-triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetic acid Examples 36.1 and 36.2: MS (EI) calc'd for C24H23F2N4O2 [M+1]+437.2, found 437.1.

reactant | ethyl {4-fluoro-7-[5-(4-fluorobenzyl)-4-methyl-1H-1,2,3-triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetate | FC=1C=CC=C2C(=C3N(C12)CC(CC3)N3N=NC(=C3CC3=CC=C(C=C3)F)C)CC(=O)OCC | C26H26F2N4O2
reactant | LiOH | 3.6 eq. | [Li+].[OH-]
solvent | THF MeOH water | 0.06 M | C1CCOC1.CO.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-fluoro-7-[5-(4-fluorobenzyl)-4-methyl-1H-1,2,3-triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetic acid | FC=1C=CC=C2C(=C3N(C12)CC(CC3)N3N=NC(=C3CC3=CC=C(C=C3)F)C)CC(=O)O | C24H22F2N4O2
